US07153855B2
To a mixture of 1-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (1.57 g, 5.0 mmol) and N-cyclopentylguanidine hydrochloride (1.07 g, 6.6 mmol) in ethanol (50 mL) was added sodium ethoxide (2.5 mL, 21 wt % in ethanol, 6.6 mmol). The resulting suspension was stirred overnight at room temperature, then diluted with water and extracted with ethyl acetate. The organic extracts were washed with brine and dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (7:3 to 3:2 hexanes-ethyl acetate) provided 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (1.77 g, 83%) as a pale yellow solid. 1H NMR (CDCl3): δ 8.44 (d, 1 H), 8.05 (d, 1 H), 7.60 (d, 2 H), 7.28 (m, 1 H), 7.06–6.96 (m, 3 H), 6.38 (d, 1 H), 5.31 (broad, 1 H), 4.38 (m, 1 H), 3.88 (s, 3 H), 2.12 (m, 2 H), 1.84–1.53 (m, 6 H); MS m/z 420 (M+1).

reactant | 1-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 5.0 mmol, 1.57 g | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C2=CC=C(C=C2)OC | C17H11ClN2O2
reactant | N-cyclopentylguanidine hydrochloride | 6.6 mmol, 1.07 g | Cl.C1(CCCC1)NC(=N)N
reactant | sodium ethoxide | 6.6 mmol, 2.5 mL | [O-]CC.[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 1.77 g, 83% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C23H22ClN5O
